* Operational Amplifier Model 1 - Ideal

.SUBCKT op_amp_1 non_inv inv out
+PARAMS: GAIN=10000

B_OPAMP out 0 V={GAIN*(V(non_inv)-V(inv))} smoothbsrc=1
+rcconst = {GLOBAL_TS*1e-4}
R_OPAMP out 0 1e6

.ENDS op_amp_1

* Operational Amplifier Model 2 - LP Filter

.SUBCKT op_amp_2 non_inv inv out
+PARAMS: INPUT_IMP=1e9 OUTPUT_IMP=1e-3 RES_FILTER=100 GAIN=10000
+CAP_FILTER=1e-6

* Input impedance
R_Rin non_inv inv {INPUT_IMP}

* Differential amplifier
E_Gain n_1 n_2 non_inv inv {GAIN}

* LP filter
R_Rf n_1 n_3 {RES_FILTER}
C_Cf n_3 n_2 {CAP_FILTER}
R_RGND n_2 0 1e6

* Output buffer
E_Eout n_4 0 n_3 n_2 1
*R_RGND2 n_5 0 0.01

* Output impedance
R_Rout n_4 out {OUTPUT_IMP}

.ENDS op_amp_2

* Operational Amplifier Model 3 - AC analysis

.SUBCKT op_amp_3 non_inv inv out
+PARAMS: GAIN=10000

B_OPAMP out 0 V={GAIN*(V(non_inv)-V(inv))}
R_OPAMP out 0 1e7

.ENDS op_amp_3
